US05808062
6-(4-Chlorophenyl)-4-hydroxy-2H-pyran-2-one.
The title compound (1.56 g, m.p. 247°-249° C.) was prepared in a similar manner as that demonstrated in the preparation of Example N using the following: 60% NaH (0.904 g, 22.6 mmol), THF (50 mL), ethyl acetoacetate (3.00 g, 22.6 mmol), lithium diisopropylamine in THF (39.8 mL, 24 mmol), 4-chloro-N-methoxy-N-methylbenzamide (3.73 g, 22.6 mmol), 90% H2SO4 (20 mL). H NMR (300 MHz, DMSO-d6) δ 11.950 (bs, 1 H), 7.878 (d, 1 H, J=9 Hz), 7.584 (d, 1 H, J=9 Hz), 6.812 (d, 1 H, J=2 Hz), 5.409 (d, 1 H, J=2 Hz).

reactant | NaH | 22.6 mmol, 0.904 g | [H-].[Na+]
reactant | ethyl acetoacetate | 22.6 mmol, 3.00 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | 4-chloro-N-methoxy-N-methylbenzamide | 22.6 mmol, 3.73 g | ClC1=CC=C(C(=O)N(C)OC)C=C1 | C9H10ClNO2
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mmol, 39.8 mL | C1CCOC1 | C4H8O
product | 6-(4-Chlorophenyl)-4-hydroxy-2H-pyran-2-one | 1.56 g | ClC1=CC=C(C=C1)C1=CC(=CC(O1)=O)O | C11H7ClO3
